US07371872B2
1-(2-tert-butoxy-2-oxoethyl)tetrahydrothiophenium bromide
Add t-butyl bromoacetate (2.44 L, 16.52 mole, 1 eq) to a solution of tetrahydrothiophene (2.19 L, 24.8 mole, 1.5 eq) in acetone (11.38 L), in a 22 L flask over 30-60 minutes while maintaining the temperature between 15-25° C. using a water bath. Stir the reaction for 22 hours and assay a sample by 1H NMR to confirm the completion of the reaction. Filter the precipitate, wash with acetone (2 L), and vacuum dry for 3 days at 28-33° C. to give 4.328 Kg (92.5% yield) of the title compound.

reactant | t-butyl bromoacetate | 16.52 mole, 2.44 L, 1 eq | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | tetrahydrothiophene | 24.8 mole, 2.19 L, 1.5 eq | S1CCCC1 | C4H8S
solvent | acetone | 11.38 L | CC(=O)C | C3H6O
product | 1-(2-tert-butoxy-2-oxoethyl)tetrahydrothiophenium bromide | 4.328 Kg, 92.5% yield | [Br-].C(C)(C)(C)OC(C[S+]1CCCC1)=O | InChI=1S/C10H19O2S.BrH/c1-10(2,3)12-9(11)8-13-6-4-5-7-13;/h4-8H2,1-3H3;1H/q+1;/p-1
